US07754737B2
A solution of (3R)—N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide (35 mg, 52 μmol) and Et4NF (40 mg, 0.26 mmol) in MeCN (1 mL) was heated at 60° C. in a microwave for 10 min. The reaction mixture was submitted directly to prep HPLC to afford (3R)—N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide (6.4 mg, 23%) and recovered (3R)—N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide (11.2 mg).

reactant | (3R)—N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide | 52 μmol, 35 mg | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=S)N1C[C@@H](CCC1)[C@@](CCCCOC)(C1=CC=CC=C1)O | C34H59N3O4SSi
reactant | Et4NF | 0.26 mmol, 40 mg | [N+](CC)(CC)(CC)CC.[F-]
solvent | MeCN | 1 mL | CC#N | C2H3N
product | (3R)—N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide | 6.4 mg, 23% | C1(CCCCC1)C[C@@H](CNC)NC(=S)N1C[C@@H](CCC1)[C@@](CCCCOC)(C1=CC=CC=C1)O | C28H47N3O2S
